US04515948
13.8 g. of sodium were dissolved in 900 ml. of methanol and to this solution were added 46.8 g. of 3-hydroxy-5-keto-3-cyclohexene-carboxylic acid. The resulting mixture was stirred, maintained between -4° C. and -8° C. by means of a cooling bath and treated over a period of 30 minutes with a phenyl-diazonium chloride solution (prepared from 27.9 g. of aniline, 450 ml. of water, 72 ml. of concentrated hydrochloric acid and 21.0 g. of sodium nitrite in 90 ml. of water). The resulting mixture was stirred for an additional hour at -5° C. to -10° C. The precipitated red reaction product was removed by filtration with suction and washed with about 1000 ml. of water, whereby there was obtained 3-hydroxy-5-keto-4-phenylazo-3-cyclohexene-carboxylic acid having a melting point of 218° C.

reactant | sodium | [Na] | Na
reactant | 3-hydroxy-5-keto-3-cyclohexene-carboxylic acid | OC=1CC(CC(C1)=O)C(=O)O | C7H8O4
reactant | phenyl-diazonium chloride | 450 ml, 27.9 g | [Cl-].C1(=CC=CC=C1)[N+]#N
solvent | methanol | CO | CH4O
product | 3-hydroxy-5-keto-4-phenylazo-3-cyclohexene-carboxylic acid | OC=1CC(CC(C1N=NC1=CC=CC=C1)=O)C(=O)O | C13H12N2O4
